US05733913
1-[2-Amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7-yl]-3-ethylurea
2,7-Diamino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidine was reacted with ethyl isocyanate according to the general procedure of Example 2. The crude product was purified by radial chromatography eluting with a gradient of 70% ethyl acetate/30% chloroform to 100% chloroform to give the title compound, 1-[2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7-yl]-3-ethylurea, mp 185°-187° C.

reactant | 2,7-Diamino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidine | NC=1N=CC2=C(N1)N=C(C(=C2)C2=C(C=CC=C2Cl)Cl)N | C13H9Cl2N5
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 1-[2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7-yl]-3-ethylurea | NC=1N=CC2=C(N1)N=C(C(=C2)C2=C(C=CC=C2Cl)Cl)NC(=O)NCC | C16H14Cl2N6O
